US07772226B2
(f) 2-(4-t-Butoxycarbonylpiperazin-1-yl)-3-(2-butynyl)-4-oxo-3,4-dihydroimidazo[4,5-c]pyridine-5,6-dicarboxylic acid 5-benzyl ester 6-methyl ester
0.079 g of 1,8-diazabicyclo[5.4.0]-7-undecene and then 5 ml of dichloromethane containing 0.194 g of t-butyl 4-[1-(2-butynyl)-4-formyl-5-methylsulfanylcarbonyl-1H-imidazol-2-yl]piperazine-1-carboxylate were added to a 2 ml dichloromethane solution of 0.174 g of methyl benzyloxycarbonylamino-(dimethoxyphosphoryl)-acetate, and the mixture was stirred at room temperature for 16 hours. The solvent was concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 0.147 g of the title compound was obtained from the fraction eluted with ethyl acetate-hexane (3:2).

reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 0.079 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | t-butyl 4-[1-(2-butynyl)-4-formyl-5-methylsulfanylcarbonyl-1H-imidazol-2-yl]piperazine-1-carboxylate | C(C#CC)N1C(=NC(=C1C(=O)SC)C=O)N1CCN(CC1)C(=O)OC(C)(C)C | C19H26N4O4S
reactant | methyl benzyloxycarbonylamino-(dimethoxyphosphoryl)-acetate | 0.174 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)P(=O)(OC)OC | C13H18NO7P
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml, 0.194 g | ClCCl | CH2Cl2
product | 2-(4-t-Butoxycarbonylpiperazin-1-yl)-3-(2-butynyl)-4-oxo-3,4-dihydroimidazo[4,5-c]pyridine-5,6-dicarboxylic acid 5-benzyl ester 6-methyl ester | 0.147 g | COC(=O)C1=CC2=C(C(N1C(=O)OCC1=CC=CC=C1)=O)N(C(=N2)N2CCN(CC2)C(=O)OC(C)(C)C)CC#CC | C29H33N5O7
